US07597875B2
3-(methoxycarbonylmethylene)glutaric acid dimethylester (89 g, 267 mmol) in methanol (200 ml) was shaken with (10% palladium on charcoal: 50% water) (9 g) under an atmosphere of hydrogen gas (3.5 bar) for (30 h). The solution was filtered through kieselguhr and concentrated in vacuo to give 3-(methoxycarbonylmethyl)glutaric acid dimethylester as an oil, yield (84.9 g, 94%).

reactant | 3-(methoxycarbonylmethylene)glutaric acid dimethylester | 267 mmol, 89 g | COC(CC(CC(=O)OC)=CC(=O)OC)=O | C10H14O6
reactant | water | O | H2O
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-(methoxycarbonylmethyl)glutaric acid dimethylester | COC(CC(CC(=O)OC)CC(=O)OC)=O | C10H16O6
